US04340740
Methanol (5 ml) was added to 945 mg of alpha-(2-benzothiazolylthio)(m-phenoxyphenyl)acetonitrile, and the mixture was stirred under ice cooling in an argon atmosphere. Then, 1.0 ml of a 2.7 M methanol solution of sodium methoxide was added, and the mixture was stirred under ice cooling for 10 minutes. Methyl iodide (0.25 ml) was then added. The mixture was stirred under ice cooling for 30 minutes, and then at room temperature for 2.5 hours. Then, 30 ml of water was added, and the reaction mixture was extracted with 20 ml of methylene chloride three times. The extract was washed with 10 ml of water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by column chromatography (silica gel; benzene and methylene chloride) to afford 752 mg (yield 77%) of alpha-(2-benzothiazolylthio)-alpha-(m-phenoxyphenyl)propionitrile as an oil.

reactant | Methanol | 5 ml | CO | CH4O
reactant | alpha-(2-benzothiazolylthio)(m-phenoxyphenyl)acetonitrile | 945 mg | S1C(=NC2=C1C=CC=C2)SC(C#N)C2=CC(=CC=C2)OC2=CC=CC=C2 | C21H14N2OS2
reactant | methanol | 2.7 M | CO | CH4O
reactant | sodium methoxide | C[O-].[Na+]
reactant | Methyl iodide | 0.25 ml | CI | CH3I
solvent | water | 30 ml | O | H2O
product | alpha-(2-benzothiazolylthio)-alpha-(m-phenoxyphenyl)propionitrile | 752 mg, yield 77% | S1C(=NC2=C1C=CC=C2)SC(C#N)(C)C2=CC(=CC=C2)OC2=CC=CC=C2 | C22H16N2OS2
